US07517992B2
a) (6-chloro-3-pyridinyl)(4-fluorophenyl)methanone
Aluminium chloride (2 g) was suspended in 3 ml of fluorobenzene. A solution of 6-chloronicotinoyl chloride (1 g, 5.7 mmol) in 2 ml of fluorobenzene was added to the stirred reaction mixture by syringe and stirred at 80° C. overnight in a closed vial. The reaction mixture was deluted with EtOAc and basified with aqueous sodium hydroxide (pH>8.5). The precipitate formed was removed by filtration. The organic solution was washed with water, dried over magnesium sulfate and concentrated by rotary evaporation. Desired product was purified by column chromatography on silica (EtOAc/hexane) to give 1.22 g (90%).

reactant | Aluminium chloride | 2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-chloronicotinoyl chloride | 5.7 mmol, 1 g | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | sodium hydroxide | pH>8.5 | [OH-].[Na+]
reactant | fluorobenzene | 3 ml | FC1=CC=CC=C1 | C6H5F
reactant | fluorobenzene | 2 ml | FC1=CC=CC=C1 | C6H5F
product | (6-chloro-3-pyridinyl)(4-fluorophenyl)methanone | ClC1=CC=C(C=N1)C(=O)C1=CC=C(C=C1)F | C12H7ClFNO
